US08633189B2
4-[(4-methoxyphenyl)methyl]-2-methyl-6-(trifluoromethoxy)-3H-1,4-benzoxazine-2-carboxylic acid (300 mg, 0.7550 mmol) was dissolved in methanol (50 mL) and 2 M HCl (2 mL), and treated with Pd(OH)2 under H2 (90 bar) at 100° C. (H-Cube, ThalesNano). The product solution was dried down to a brown residue. The residue was redissolved in acetonitrile, filtered and concentrated in vacuo to provide 2-methyl-6-(trifluoromethoxy)-3,4-dihydro-1,4-benzoxazine-2-carboxylic acid hydrochloride (200 mg, 85% yield) as a brown solid. LC/MS m/z 278.3 [M+H]+.

reactant | 4-[(4-methoxyphenyl)methyl]-2-methyl-6-(trifluoromethoxy)-3H-1,4-benzoxazine-2-carboxylic acid | 0.7550 mmol, 300 mg | COC1=CC=C(C=C1)CN1CC(OC2=C1C=C(C=C2)OC(F)(F)F)(C(=O)O)C | C19H18F3NO5
reactant | HCl | 2 M, 2 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 2-methyl-6-(trifluoromethoxy)-3,4-dihydro-1,4-benzoxazine-2-carboxylic acid hydrochloride | 200 mg, 85% yield | Cl.CC1(OC2=C(NC1)C=C(C=C2)OC(F)(F)F)C(=O)O | InChI=1S/C11H10F3NO4.ClH/c1-10(9(16)17)5-15-7-4-6(18-11(12,13)14)2-3-8(7)19-10;/h2-4,15H,5H2,1H3,(H,16,17);1H
